US08710043B2
Step 5. (S)-tert-Butyl((3-bromopyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamate
To a cooled (0° C.) stirred solution of (S)-2-methyl-propane-2-sulfinic acid ((3-bromo-pyridin-2-yl)-(4-trifluoromethyl-phenyl)-methyl)-amide (5.0 g, 11.49 mmol) in DCM/EtOH (1/1.60 mL) was added 4.0 M HCl in 1,4-dioxane (14.36 mL, 57.4 mmol). Stirring was continued for 2 h and then DIPEA (10.00 mL, 57.4 mmol) was added, followed by di-tert-butyl dicarbonate (4.00 mL, 17.23 mmol) added. The resulting mixture was stirred at rt overnight, diluted with H2O, and extracted with DCM (3×100 mL). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The residue thus obtained was purified by silica gel (100-200 mesh) column chromatography using 5% EtOAc in hexane as eluent to give the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6): δ8.5 (dd, 1H), 7.81 (dd, 1H), 7.52 (s, 4H), 7.2 (dd, 1H) 6.51 (d, 1H), 6.32 (d. 1H), 1.41 (s, 9H).

reactant | (S)-2-methyl-propane-2-sulfinic acid ((3-bromo-pyridin-2-yl)-(4-trifluoromethyl-phenyl)-methyl)-amide | 11.49 mmol, 5.0 g | BrC=1C(=NC=CC1)C(C1=CC=C(C=C1)C(F)(F)F)N[S@@](=O)C(C)(C)C | C17H18BrF3N2OS
reactant | HCl | 4.0 M | Cl | ClH
reactant | 1,4-dioxane | 57.4 mmol, 14.36 mL | O1CCOCC1 | C4H8O2
reactant | DIPEA | 57.4 mmol, 10.00 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 17.23 mmol, 4.00 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM EtOH | 1.60 mL | C(Cl)Cl.CCO
solvent | H2O | O | H2O
product | (S)-tert-Butyl((3-bromopyridin-2-yl)(4-(trifluoromethyl)phenyl)methyl)carbamate | C(C)(C)(C)OC(N[C@@H](C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1Br)=O | C18H18BrF3N2O2
